US04222937
A mixture of 8-acetoxy-2,6-dimethyl-5-hydroxy-2-octene (2.27 g, 10.6 mmole), ethyl vinylether (0.82 g. 11.4 mmole), p-toluenesulfonic acid monohydrate (catalytic amount) and ether (50 ml) is stirred at room temperature for 16 hours. The resulting mixture is treated with ether (150 ml) and washes with 5% sodium bicarbonate solution (2×100 ml). The organic phase is dried (Na2SO4), and evaporated in vacuo to give the crude product. The crude material is further purified by column chromatography on silica gel (25 g, 5% ethyl acetate in hexane) to give 8-acetoxy-2,6-dimethyl-5-[(1-ethoxyethoxy)]-2-octene as a colorless oil.

reactant | 8-acetoxy-2,6-dimethyl-5-hydroxy-2-octene | 10.6 mmole, 2.27 g | C(C)(=O)OCCC(C(CC=C(C)C)O)C | C12H22O3
reactant | ethyl vinylether | 11.4 mmole, 0.82 g | C(C)OC=C | C4H8O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 8-acetoxy-2,6-dimethyl-5-[(1-ethoxyethoxy)]-2-octene | C(C)(=O)OCCC(C(CC=C(C)C)OC(C)OCC)C | C16H30O4
